US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{(1-methylpyrazol-4-yl)methyl)pyrrolidine (15.3 g) and triphenylphosphine (19.67 g) in tetrahydrofuran (180 ml) was added diethyl azodicarboxylate (13.06 g) at -30° C. After 15 minutes, thiobenzoic acid (9.5 ml) was added thereto. The mixture was warmed up to 0°~5° C. over 25 minutes and stirred for 2 hours. After evaporation of tetrahydrofuran, the resulting residue was dissolved in ethyl acetate (500 ml). The organic layer was washed with saturated sodium bicarbonate solution (×3), water and brine, dried over magnesium sulfate and evaporated under reduced pressure. After storing the residue overnight in an ice box, a precipitate had appeared. To the precipitate was added a solution of diisopropyl ether (IPE)--diethyl ether (1:1, 100 ml) and the solid was removed by filtration. The filtrate was evaporated and the residue was column chromatographed on silica gel (1.1 kg, eluting with AcOEt-IPE=2:3 to 1:1) to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-{(1-methylpyrazol-4-yl)methyl}pyrrolidine (21.8 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{(1-methylpyrazol-4-yl)methyl)pyrrolidine | 15.3 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CC=1C=NN(C1)C | C13H19N3O3
reactant | triphenylphosphine | 19.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 13.06 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thiobenzoic acid | 9.5 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-{(1-methylpyrazol-4-yl)methyl}pyrrolidine | 21.8 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CC=1C=NN(C1)C | C20H23N3O3S
